US05442064
1-(4-Cyanophenyl)-4-[N-[trans-4-(methoxycarbonyl)-cyclohexyl]-N-methyl-aminocarbonyl]-piperazine
A solution of 2.50 g of 1-(4-cyanophenyl)-4-[[trans-4-(methoxycarbonyl)-cyclohexyl]-aminocarbonyl]-piperazine and 0.76 g of potassium tert.butoxide in 30 ml of dimethylsulphoxide is stirred for 30 minutes at ambient temperature. Then 0.5 ml of methyliodide is added dropwise and the mixture is stirred for 1.5 hours at ambient temperature. The reaction solution is diluted with 100 ml of water and the aqueous phase is extracted three times with ethyl acetate. The organic phases are washed with saturated saline solution and dried over sodium sulphate. The solvent is removed under reduced pressure and the residue remaining is chromatographed over silica gel with ethyl acetate/cyclohexane (3:1) as eluant. Yield: 1.0 g (39% of theory). The product contains about 20% of cis compound Rf value: 0.58 (silica gel; ethyl acetate) 1.0 g of starting material are obtained as a further fraction. Rf value: 0.45 (silica gel; ethyl acetate)

reactant | 1-(4-cyanophenyl)-4-[[trans-4-(methoxycarbonyl)-cyclohexyl]-aminocarbonyl]-piperazine | 2.50 g | C(#N)C1=CC=C(C=C1)N1CCN(CC1)C(=O)N[C@@H]1CC[C@H](CC1)C(=O)OC | C20H26N4O3
reactant | potassium tert.butoxide | 0.76 g | CC(C)([O-])C.[K+]
reactant | methyliodide | 0.5 ml | CI | CH3I
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylsulphoxide | 30 ml | CS(=O)C | C2H6OS
solvent | water | 100 ml | O | H2O
product | 1-(4-Cyanophenyl)-4-[N-[trans-4-(methoxycarbonyl)-cyclohexyl]-N-methyl-aminocarbonyl]-piperazine | C(#N)C1=CC=C(C=C1)N1CCN(CC1)C(=O)N(C)[C@@H]1CC[C@H](CC1)C(=O)OC | C21H28N4O3
